US06300368B1
4′-[2-(tert-Butoxycarbonylamino)ethoxy]-2,6-dimethoxybenzanilide (1.17 g) was added with 4N HCl/dioxane (5 ml) and mixed for 6 hours at room temperature. The reaction mixture was concentrated under vacuum and residue was dissolved into chloroform (50 ml). The solution was washed with 1N sodium hydroxide aqueous solution (10 ml) followed by saturated sodium chloride (20 ml). After concentration under vacuum to small volume, the solution was subjected to purification by silica-gel column chromatography (chloroform methanol=4:1) to obtain 4′-(2-aminoethoxy)-2,6-dimethoxybenzanilide (0.74 g) as white powder.

reactant | 4′-[2-(tert-Butoxycarbonylamino)ethoxy]-2,6-dimethoxybenzanilide | 1.17 g | C(C)(C)(C)OC(=O)NCCOC1=CC=C(NC(C2=C(C=CC=C2OC)OC)=O)C=C1 | C22H28N2O6
reactant | HCl dioxane | 4N, 5 ml | Cl.O1CCOCC1
product | 4′-(2-aminoethoxy)-2,6-dimethoxybenzanilide | 0.74 g | NCCOC1=CC=C(NC(C2=C(C=CC=C2OC)OC)=O)C=C1 | C17H20N2O4
